US05256675
A mixture of 2-acetylamino-5-bromothiazole (2.2 g), 4-amino-2-mercaptopyrimidine (1.3 g) and potassium carbonate (2.0 g) in N,N-dimethylformamide (50 ml) was heated at 90° C. for 2 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was triturated with water. The precipitation was collected by filtration, washed with water and dried in vacuo to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 200 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-acetylamino-5-(4-aminopyrimidin-2-ylthio)thiazole (1.3 g, yield: 48.7%). mp: 255°-258° C. (dec.)

reactant | 2-acetylamino-5-bromothiazole | 2.2 g | C(C)(=O)NC=1SC(=CN1)Br | C5H5BrN2OS
reactant | 4-amino-2-mercaptopyrimidine | 1.3 g | NC1=NC(=NC=C1)S | C4H5N3S
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(4-aminopyrimidin-2-ylthio)thiazole | 1.3 g, yield: 48.7% | C(C)(=O)NC=1SC(=CN1)SC1=NC=CC(=N1)N | C9H9N5OS2
